US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-cyclohexyl-propyl)-amide
tert-Butyl 4-[(1-{[(3-cyclohexylpropyl)amino]carbonyl}-4-piperidinyl)amino]phenethylcarbamate formate (0.35 g, 0.809 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.327 g, 0.809 mmol) according to Procedure G (eluant: 20:1 going to 10:1 chloroform-methanol) to give the title compound (0.23 g, 0.291 mmol).

reactant | tert-Butyl 4-[(1-{[(3-cyclohexylpropyl)amino]carbonyl}-4-piperidinyl)amino]phenethylcarbamate formate | 0.809 mmol, 0.35 g | C(=O)O.C1(CCCCC1)CCCNC(=O)N1CCC(CC1)NC1=CC=C(CCNC(OC(C)(C)C)=O)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.809 mmol, 0.327 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-cyclohexyl-propyl)-amide | 0.291 mmol, 0.23 g | C1(CCCCC1)CCCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C32H48N4O4
